* C:\Users\emman\OneDrive\Desktop\Microelectronics Research\Analog\analog_design\gmId\32nm_cs_active\32nm_cs_activeLoad.asc
V2 N001 0 0.3
M1 out N001 VDD VDD p_32n l=128n w=10.4u
M2 out N002 0 0 n_32n l=96n w=3.84u
V1 N002 N003 0.7
V3 VDD 0 1
V4 N003 0 SINE(0 10m 2k)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\emman\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.lib 32n_lp.txt
.tran 10m
;meas AC gmro max mag(V(out))
;step param VSG 650m 800m 1m
;step param k 1 10 1
.backanno
.end
